US04405642
2,3 Epoxypropyl Benzoate
A mixture containing 14.8 g (0.2 mole) of glycidol, 150 ml of anhydrous ether, 16 g (0.4 mole) of pyridine and 28 g (0.2 mole) of benzoyl chloride was stirred at room temperature for 2 hours. The mixture was filtered and the ether was evaporated to leave an oil. This oil was distilled to give 21 g (60%) of colorless oil: b.p. 92° C./0.5 mm Hg. The NMR and IR spectra were consistent with the assigned structure.

reactant | glycidol | 0.2 mole, 14.8 g | C1C(O1)CO | C3H6O2
reactant | pyridine | 0.4 mole, 16 g | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.2 mole, 28 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2,3 Epoxypropyl Benzoate | 21 g, 60% | C(C1=CC=CC=C1)(=O)OCC1CO1 | C10H10O3
